US08258160B2
Synthesis of N-benzyl-2-(4-(4-fluorobenzylcarbamoyl)-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 18, making variations as necessary to replace benzylamine with 4-fluorobenzylamine to react with 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylic acid, the title compound was obtained as a white solid in 11% yield: mp 198-201° C. (dichloromethane/hexanes); 1H NMR (300 MHz, DMSO-d6) δ 9.34 (t, J=6.0 Hz, 1H), 9.23 (s, 1H), 9.02 (t, J=6.0 Hz, 1H), 7.40-7.12 (m, 9H), 4.47-4.45 (m, 4H), 2.63 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 169.4, 160.1, 158.4, 157.9, 154.3, 152.4, 152.4, 143.6, 138.9, 135.4, 129.4, 129.3, 128.3, 127.3, 126.9, 125.4, 123.6, 115.1, 114.8, 42.9, 41.4, 17.1; MS (ES+) m/z 451.4 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylic acid | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C(=O)O)C | C15H13N5O3S
product | N-benzyl-2-(4-(4-fluorobenzylcarbamoyl)-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide | 11% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C(NCC1=CC=C(C=C1)F)=O)C | C22H19FN6O2S
